US08912169B2
Step 5: (R)-3-(2-(trans-4-((dimethylamino)methyl)cyclohexyl)-N-methylacetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from 3-[2-{[2-(4-Dimethylaminomethyl-cyclohexyl)-acetyl]-methyl-amino}-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester and BCl3 following the procedure described in step 2 of Example 1. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 403 (MH)+.

reactant | 3-[2-{[2-(4-Dimethylaminomethyl-cyclohexyl)-acetyl]-methyl-amino}-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)N(C)C(CC3CCC(CC3)CN(C)C)=O)OC)=O | C36H57BN2O6
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-3-(2-(trans-4-((dimethylamino)methyl)cyclohexyl)-N-methylacetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | CN(C)C[C@@H]1CC[C@H](CC1)CC(=O)N(C)[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C21H31BN2O5
